US08471005B2
N-tert-Butyl-3-[2-(1-methanesulfonyl-1,2,3,4-tetrahydro-quinolin-7-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzenesulfonamide was prepared from N-tert-butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide and 1-methanesulfonyl-1,2,3,4-tetrahydro-quinolin-7-ylamine in an analogous manner to Example 1052a. Product isolated as a yellow solid (69 mg, 57%). m.p.=187-191° C.; LCMS (m/e) 555 (M+H); 1H-NMR (d6-DMSO, 400 MHz) δ 9.50 (s, 1H), 9.04 (s, 1H), 8.51-8.42 (m, 2H), 7.82 (d, 1H, J=7.9 Hz), 7.76-7.65 (m, 3H), 7.62 (s, 1H), 7.20 (d, 1H, J=4.8 Hz), 7.16 (d, 1H, J=8.3 Hz), 6.99 (d, 1H, J=4.8 Hz), 3.73-3.67 (m, 2H), 3.00 (s, 3H), 2.78-2.71 (m, 2H), 1.97-1.87 (m, 2H), 1.11 (s, 9H).

reactant | N-tert-butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)O | C16H18N4O3S
reactant | 1-methanesulfonyl-1,2,3,4-tetrahydro-quinolin-7-ylamine | CS(=O)(=O)N1CCCC2=CC=C(C=C12)N | C10H14N2O2S
product | N-tert-Butyl-3-[2-(1-methanesulfonyl-1,2,3,4-tetrahydro-quinolin-7-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C1CCCN(C1=C2)S(=O)(=O)C | C26H30N6O4S2
